US08492414B2
4-Chloro-2-hydroxybenzamide (IV)
A solution of 4-chloro-2-methoxybenzamide (0.74 g, 3.99 mmol) in dichloromethane (50 ml) was cooled to −78° C. followed by addition of BBr3 (1.15 ml, 11.96 mmol) under nitrogen atmosphere. The reaction mixture was allowed to stir at room temperature for 2 h. After the completion of reaction (TLC monitoring), the solution was cooled to 0° C. and quenched with water. The resulting solution was basified by aqueous NaHCO3 and extracted with EtOAc (3×100 ml). The combined organics was dried over anhydrous Na2SO4, filtered and concentrated to get the desired product (0.608 g, 89%). MS: 172.33 (M+H)+.

reactant | 4-chloro-2-methoxybenzamide | 3.99 mmol, 0.74 g | ClC1=CC(=C(C(=O)N)C=C1)OC | C8H8ClNO2
reactant | BBr3 | 11.96 mmol, 1.15 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-Chloro-2-hydroxybenzamide | 0.608 g, 89% | ClC1=CC(=C(C(=O)N)C=C1)O | C7H6ClNO2
